US08431596B2
[5-(3-Aminomethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-amine (XX-308)
(3-{2-[4-(2-Pyrrolidin-1-yl-ethoxy)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-5-yl}-benzyl)-carbamic acid tert-butyl ester (1.78 g, 3.37 mmol) was dissolved in dichloromethane (20 ml). Trifluoroacetic acid (20 ml) was added and the reaction was stirred for 2 hours. Neutralisation was performed by adding saturated aqueous sodium hydrogencarbonate. The aqueous phase was extracted twice with dichloromethane, and the combined organics washed with brine, dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo to give the desired compound. Yield: 460 mg, 32%. 50 mg was purified by preparatory HPLC.

reactant | (3-{2-[4-(2-Pyrrolidin-1-yl-ethoxy)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-5-yl}-benzyl)-carbamic acid tert-butyl ester | 3.37 mmol, 1.78 g | C(C)(C)(C)OC(NCC1=CC(=CC=C1)C1=CC=CC=2N1N=C(N2)NC2=CC=C(C=C2)OCCN2CCCC2)=O | C30H36N6O3
reactant | Trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | [5-(3-Aminomethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-amine | NCC=1C=C(C=CC1)C1=CC=CC=2N1N=C(N2)NC2=CC=C(C=C2)OCCN2CCCC2 | C25H28N6O
